US05074911
(a) 2-Chloro-5-(2-hexyldecyloxycarbonyl)pyridine
A suspension of 6-chloronicotinic acid (47.4 g, 0.3 mol) in xylene (150 ml) containing DMF (1.5 ml) was stirred and heated at 80° C. whilst SOCl2 (26.1 ml, 0.36 mol) was added during 20 minutes. Stirring and heating at 80° C. was continued for 11/2 hours, when all had passed into solution. Excess SOCl2, HCl, and a little xylene were then removed by distillation at 20 mm pressure. The residual solution was cooled to 40° C., and 2-hexyldecanol (72.9 g, 0.3 mol) was added during 20 minutes, the temperature rising to 55° C.

reactant | 6-chloronicotinic acid | 0.3 mol, 47.4 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
reactant | SOCl2 | 0.36 mol, 26.1 ml | O=S(Cl)Cl | Cl2OS
reactant | 2-hexyldecanol | 0.3 mol, 72.9 g | C(CCCCC)C(CO)CCCCCCCC | C16H34O
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Chloro-5-(2-hexyldecyloxycarbonyl)pyridine | ClC1=NC=C(C=C1)C(=O)OCC(CCCCCCCC)CCCCCC | C22H36ClNO2
